US04973351
To a solution of 3-fluoro-2-methylaniline (200 mmol, 25 g) in methylene chloride (70 ml) was added a solution of ethyl imino(ethylthio)acetate hydrogentetrafluorobarate (200 mmol) prepared by a method disclosed in Japanese Patent Laid-open Publication No. 56-39092 in methylene chloride (100 ml), and the mixture was thoroughly shaken and allowed to stand at room temperature for 12 hours. At the end of the period, n-hexane (300 ml) was added to the reaction mixture and the mixture was allowed to stand for 2 hours. After removal of a supernatant by decantation, methylene chloride (200 ml) was added to the remaining mixture, which was then neutralized by addition of an aqueous solution of sodium bicarbonate with thorough stirring. From the resulting mixture an organic phase (a solution in methylene chloride) was separated and dried over anhydrous magnesium sulfate overnight. After removal of inorganic materials by filtration, the filtrate was concentrated under reduced pressure to obtain ethyl imino[(3-fluoro-2-methylphenyl)amino]acetate. The product was dissolved in ethanol (80 ml), and to the resulting solution 37% formalin (30 ml) was added and the mixture was thoroughly shaken and allowed to stand overnight. The crystalline product so produced was filtered and recrystallized from ethanol. A white crystalline product (86 mmol, 18 g) was obtained in a yield of 43%.

reactant | 3-fluoro-2-methylaniline | 200 mmol, 25 g | FC=1C(=C(N)C=CC1)C | C7H8FN
reactant | ethyl imino(ethylthio)acetate | 200 mmol | N=C(C(=O)OCC)SCC | C6H11NO2S
reactant | n-hexane | 300 ml | CCCCCC | C6H14
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl imino[(3-fluoro-2-methylphenyl)amino]acetate | N=C(C(=O)OCC)NC1=C(C(=CC=C1)F)C | C11H13FN2O2
